US07026515B2
Preparation of (4S)-N-benzyloxycarbonyl-4-isopropyl-5-oxazolidinone
In toluene (250 mL) were suspended benzyloxycarbonyl-L-valine (25.1 g), paraformaldehyde (6.70 g) and p-toluenesulfonic acid monohydrate (0.19 g), and the suspension was heated at reflux while removing water produced. At the end of the reaction, the mixture was cooled to room temperature, washed with saturated aqueous sodium hydrogen carbonate solution and saturated saline. The toluene solution was dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give the title compound (23.7 g) as colorless transparent syrup in an yield of 90%.

reactant | benzyloxycarbonyl-L-valine | 25.1 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | paraformaldehyde | 6.70 g | C=O | CH2O
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid monohydrate | 0.19 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | (4S)-N-benzyloxycarbonyl-4-isopropyl-5-oxazolidinone | 23.7 g, yield of 90% | C(C1=CC=CC=C1)OC(=O)N1COC([C@@H]1C(C)C)=O | C14H17NO4
